US05397781
Preparation of 4-(N-methyl-N-phenylamino)butanoic acid
A mixture of N-methylaniline (10 g), ethyl 4-bromobutyrate (13.2 ml) and potassium carbonate (12.7 g) was stirred for 1.5 hour at 110° C. After cooling to room temperature, ethanol (100 ml) and 3N aqueous sodium hydroxide (100 ml) were added to the mixture, and the mixture was stirred for 30 minutes under reflux. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure and the residue was diluted with water and then washed with ether. The aqueous layer was acidified to pH 4 with concentrated hydrochloric acid and extracted three times with ethyl acetate. The organic layers were collected and extracted twice with 3N hydrochloric acid. The aqueous layers were collected, adjusted to pH 4 by using 20% NaCl aqueous solution, and extracted five times with an ethyl acetate. The combined organic layer was washed with water and saturated sodium chloride, dried over anhydrous sodium sulfate and then concentrated under reduced pressure to give 14.8 g (84%) of the objective compound.

reactant | N-methylaniline | 10 g | CNC1=CC=CC=C1 | C7H9N
reactant | ethyl 4-bromobutyrate | 13.2 ml | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 12.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 3N, 100 ml | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-(N-methyl-N-phenylamino)butanoic acid | 14.8 g, 84% | CN(C1=CC=CC=C1)CCCC(=O)O | C11H15NO2
